US05013553
High Performance Liquid Chromatography Assay for Benzo (c) Phenanthridine Alkaloid Release from Biodegradable Polymers In Vitro and In Vivo
A 5CN 10u radial pack column (5 mm. ID×100 mm.; from Water Associates) was run at 0.5 ml./min. with a mobile phase containing 84/16 (u/v) methanol: water with 0.005 M. triethylamine and phosphoric acid (pH 4.8). Detection of the benzophenanthridine alkaloid was monitored at 280 nm. using sanguinarine in methanol as a standard. After removal of the 5 ml. samples, the fluid was replaced with 5 ml. of isotonic saline. A 20 μl. sample was injected into the HPLC and analyzed.

reactant | Water | O | H2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | phosphoric acid | pH 4.8 | P(O)(O)(O)=O | H3O4P
reactant | sanguinarine | C[N+]=1C=C2C(C=CC3=C2OCO3)=C4C1C=5C=C6C(=CC5C=C4)OCO6
solvent | methanol | CO | CH4O
product | Benzo (c) Phenanthridine | C1=CC=CC2=C1C=CC1=C3C=CC=CC3=CN=C21 | C17H11N
